US08106033B2
Sodium acetate (0.4 mol) was dissolved in methanol (200 mL). Methyl-2-bromopropionate (40 mmol) was added and the resulting mixture was heated at reflux for 10 min. The heated mixture was cooled to room temperature (25° C.), and (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxybenzenamine (0.1 mol) was added. The resulting mixture was heated at reflux for 1 h. The hot reaction mixture was allowed to cool to room temperature (25° C.), and then poured into ice water (500 mL). A solid precipitate formed. The precipitate was separated by filtration and recrystallized from ethanol to provide the desired methyl(E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoate.

reactant | Sodium acetate | 0.4 mol | C(C)(=O)[O-].[Na+]
reactant | Methyl-2-bromopropionate | 40 mmol | COC(C(C)Br)=O | C4H7BrO2
reactant | (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxybenzenamine | 0.1 mol | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)N)OC)C(=CC(=C1)OC)OC | C19H23NO6S
solvent | methanol | 200 mL | CO | CH4O
product | methyl(E)-2-(5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenylamino)propanoate | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)NC(C(=O)OC)C)OC)C(=CC(=C1)OC)OC | C23H29NO8S
